US04166128
To a solution of 6.5 g of methyl 2-(2,6-dichloroanilino)phenylglyoxylate in 130 ml of ethanol was added 0.5 g of sodium borohydride while cooling at -15° to -20° C., and the mixture was stirred at 0° C. for 2 hours and then at room temperature for further 1 hour. Thereafter, the reaction mixture was mixed with diluted hydrochloric acid for decomposition, diluted with 500 ml of water and extracted with ether. The ether extract was washed with water, dried over anhydrous sodium sulfate and then concentrated without heating. The resulting residue was recrystallized from ethanol to give 6.2 g of methyl 2-(2,6-dichloroanilino)phenylglycolate. m.p. 123°-124° C. Yield: 95% of theoretical amount

reactant | methyl 2-(2,6-dichloroanilino)phenylglyoxylate | 6.5 g | ClC1=C(NC2=C(C=CC=C2)C(C(=O)OC)=O)C(=CC=C1)Cl | C15H11Cl2NO3
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 130 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | methyl 2-(2,6-dichloroanilino)phenylglycolate | 6.2 g, Yield: 95% | ClC1=C(NC2=C(C=CC=C2)C(C(=O)OC)O)C(=CC=C1)Cl | C15H13Cl2NO3
